US04666932
4-(3-Methyl-4-nitrophenyl)-1-H-imidazole (9.2 g) was allowed to react with 85% hydrazine hydrate in methanol to give 7.9 g of 4-(3-methyl-4-aminophenyl)-1-H-imidazole, M.p. 195°-197° C. 4-(3-Methoxy-4-aminophenyl)-1-H-imidazole, M.p. 145° C. (dec.), was prepared analogously.

reactant | 4-(3-Methyl-4-nitrophenyl)-1-H-imidazole | 9.2 g | CC=1C=C(C=CC1[N+](=O)[O-])C=1N=CNC1 | C10H9N3O2
reactant | hydrazine hydrate | O.NN
solvent | methanol | CO | CH4O
product | 4-(3-methyl-4-aminophenyl)-1-H-imidazole | 7.9 g | CC=1C=C(C=CC1N)C=1N=CNC1 | C10H11N3
